US07163936B2
To a solution of N-(benzyloxy)carbonyl-D-glutamic acid 5-tert-butyl ester (35 g, 102 mol) in THF (500 ml) was added at −30° C. triethylamine (17 ml, 122 mmol), followed by addition of ethyl chloroformate (12 ml, 122 mmol) and the mixture was stirred at the same temperature. Then to the mixture was added at −30° C. a solution of sodium borohydride (11.6 g, 306 mmol) in water (51 ml) and the mixture was stirred for 30 minutes. Then the solution was raised to 0° C. and stirred for 30 minutes. To the reaction mixture was added water and the solution was extracted three times with ethyl acetate and the organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was purified by silica gel (210 g) chromatography (Hexane/ethyl acetate: 3/2→1/1) to give tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}-5-hydroxypentanoate (16.5 g, 50%).

reactant | N-(benzyloxy)carbonyl-D-glutamic acid 5-tert-butyl ester | 102 mol, 35 g | C(C)(C)(C)OC(CC[C@@H](NC(=O)OCC1=CC=CC=C1)C(=O)O)=O | C17H23NO6
reactant | triethylamine | 122 mmol, 17 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 122 mmol, 12 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 306 mmol, 11.6 g | [BH4-].[Na+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | water | 51 ml | O | H2O
product | tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}-5-hydroxypentanoate | 16.5 g, 50% | C(C1=CC=CC=C1)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CO | C17H25NO5
